USRE029835
1-(2,3,5-tri-O-acetyl-β -ribofuranosyl)-1,2,4-triazole-3-carboxamide
A solution of 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide (488 mg., 2.00 mmol) in pyridine (10.0 ml.) containing acetic anhydride (1.0 ml.) was added and the solution was stirred at room temperature for 2 hrs. The solvent was removed and water was added to the residue. The mixture was extracted with methylene chloride (three 20-ml. portions) and the organic layer was extracted with aqueous sodium hydrogen carbonate and water. The organic phase was dried over magnesium sulfate, filtered, and evaporated to a syrup which was applied to a silica gel column. Elution with chloroform-methanol (19:1) provided the pure product as an amorphous solid (560 mg., 75.6%).

reactant | 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamide | 2.00 mmol, 488 mg | [C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)N1N=C(N=C1)C(=O)N | C8H12N4O5
reactant | acetic anhydride | 1.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10.0 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,3,5-tri-O-acetyl-β -ribofuranosyl)-1,2,4-triazole-3-carboxamide | 560 mg, 75.6% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1N=C(N=C1)C(=O)N | C14H18N4O8
